US09388161B2
(S)-Methyl 6-(1-cyclopropyl-1H-pyrazol-4-yl)-5-(1-isopropylazetidin-3-yloxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate was synthesized from (S)-methyl 5-(azetidin-3-yloxy)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate and acetone according to the procedure outlined above for Example 40. 1H NMR (400 MHz, CD3OD) δ ppm 0.85-0.95 (m, 6H), 1.05-1.15 (m, 7H), 1.45-1.55 (m, 1H), 2.15-2.52 (m, 3H), 2.80-2.90 (m, 1H), 3.01-3.11 (m, 2H), 3.40-3.50 (m, 2H), 3.67-3.71 (m, 1H), 3.78 (s, 3H), 4.15-4.25 (m, 1H), 4.51-4.62 (m, 1H), 7.20-7.35 (m, 2H), 7.76 (s, 1H), 7.97 (s, 1H). MS (ESI, pos. ion) m/z 425 [M+H]+.

reactant | (S)-methyl 5-(azetidin-3-yloxy)-6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | N1CC(C1)OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NN(C1)C1CC1)C(=O)OC)C | C21H26N4O3
reactant | acetone | CC(=O)C | C3H6O
product | (S)-Methyl 6-(1-cyclopropyl-1H-pyrazol-4-yl)-5-(1-isopropylazetidin-3-yloxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | C1(CC1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CN(C1)C(C)C | C24H32N4O3
